US06335360B1
4-Fluoroindole-2-carboxylic acid
To a mixture of potassium ethoxide (5.317 g, 63 mmol) in diethyl ether (250 ml), ethyl oxalate (8.65 ml, 63 mmol) was added. After the solid ethoxide disappeared, 2-fluoro-6-nitrotoluene (10 g, 63.18 mmol) in diethyl ether (20 ml) was added, and the mixture was stirred at 35 to 38° C. for eighteen hours. Water (200 ml) was added, and the aqueous layer separated from the ether layer. The deep red aqueous solution was washed with ether (2×30 ml) to remove the unchanged starting materials, and acidified with a slight excess of hydrochloric acid, then the aqueous layer was extracted with ethyl acetate (3×100 ml). The combined ethyl acetate layers were evaporated and a brown solid was obtained which gave a yellow solid after recrystallization from acetic acid. This yellow solid was dissolved in ammonia (70 ml, d=0.88 diluted to 100 ml with water), then a hot solution of ferrous sulphate (90 g of hydrated crystals in 100 ml of water) added, and the mixture was stirred on a water bath for an hour. After cooling, the black sludge of ferric hydroxide was filtered off and washed well with warm water containing a little ammonia until a test portion gave only a faint milkiness on acidification. The filtration and washings were concentrated, the solution acidified and extracted with ethyl acetate. The organic layer was concentrated to give a brown solid as the desired product.

reactant | potassium ethoxide | 63 mmol, 5.317 g | [O-]CC.[K+]
reactant | ethyl oxalate | 63 mmol, 8.65 ml | C(C(=O)[O-])(=O)OCC
reactant | ethoxide | [O-]CC
reactant | 2-fluoro-6-nitrotoluene | 63.18 mmol, 10 g | FC1=C(C(=CC=C1)[N+](=O)[O-])C | C7H6FNO2
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | Water | 200 ml | O | H2O
product | 4-Fluoroindole-2-carboxylic acid | FC1=C2C=C(NC2=CC=C1)C(=O)O | C9H6FNO2
